US06376673B1
1-Methyl-3-hydroxymethyl-4-(3,4-dichlorophenyl)piperidine
To a solution of 1-methyl-3-methoxycarbonyl-4-(3,4-dichlorophenyl)piperidine (10 g, 33 mmol) in tetrahydrofuran (100 mL) at −20° C. was added a suspension of lithium aluminium hydride (1.2 g, 32 mmol) in tetrahydrofuran (150 mL) over 35 min. The reaction was heated to 0° C. followed by successive addition of water (1 mL), sodium hydroxide (4 N, 1 mL) and water (10 mL). The reaction was stirred for another 30 min and filtered through celite. Evaporation of the solvent afforded 9.3 g of the title compound as an oil.

reactant | 1-methyl-3-methoxycarbonyl-4-(3,4-dichlorophenyl)piperidine | 33 mmol, 10 g | CN1CC(C(CC1)C1=CC(=C(C=C1)Cl)Cl)C(=O)OC | C14H17Cl2NO2
reactant | lithium aluminium hydride | 32 mmol, 1.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 mL | O | H2O
reactant | sodium hydroxide | 4 N, 1 mL | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 1-Methyl-3-hydroxymethyl-4-(3,4-dichlorophenyl)piperidine | 9.3 g | CN1CC(C(CC1)C1=CC(=C(C=C1)Cl)Cl)CO | C13H17Cl2NO
